US07169805B2
Captopril (3.50 g, 0.0161 Mol) and N,N-diisopropyl ethylamine (6.80 ml, 0.039 Mol) were dissolved in H2O/CH3CN (80 ml, 1:1) and the mixture was cooled to 0° C. Then 4-chlorobutylchloroformate (2.70 ml, 0.0198 Mol) was added and the reaction was slowly warmed to room temperature and stirred for 4 h. The mixture was then partitioned between HCl (4%, 100 ml) and EtOAc (100 ml). The organic layer was separated and the aqueous phase was extracted with EtOAc (2×100 ml). The combined organic phases were washed with brine (3×60 ml), dried over sodium sulphate and evaporated under reduced pressure affording 1-[(2S)-3-(4-chlorobutoxycarbonyl)mercapto-2-methyl-1-oxopropyl]-L-proline (5.90 g) as a colourless oil that was used without further purification.

reactant | Captopril | 0.0161 Mol, 3.50 g | C[C@H](CS)C(=O)N1CCC[C@H]1C(=O)O | C9H15NO3S
reactant | N,N-diisopropyl ethylamine | 0.039 Mol, 6.80 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-chlorobutylchloroformate | 0.0198 Mol, 2.70 ml | ClCCCCOC(=O)Cl | C5H8Cl2O2
solvent | H2O CH3CN | 80 ml | O.CC#N
product | 1-[(2S)-3-(4-chlorobutoxycarbonyl)mercapto-2-methyl-1-oxopropyl]-L-proline | 5.90 g | ClCCCCOC(=O)SC[C@H](C(=O)N1[C@H](C(=O)O)CCC1)C | C14H22ClNO5S
